US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2,6-dichlorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2,6-dichlorobenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.49-7.37 (m, 3 H), 7.28-7.21 (m, 2 H), 6.91 (t, J=8.3 Hz, 1 H), 6.83-6.78 (m, 1 H), 6.19-6.13 (m, 1 H), 5.83-5.68 (m, 2 H), 5.62-5.56 (m, 1 H), 4.27 (t, J=5.2 Hz, 2 H), 2.94-2.77 (m, 2 H), 2.75 (s, 3 H), 2.12-2.06 (m, 2 H), 0.97 (s, 9 H); LC/MS (m/z) ES+=553.30 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 2,6-dichlorobenzyl bromide | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(2,6-dichlorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C=CC=C2Cl)Cl)C=2C=C1CCCOC1=CC2 | C30H30Cl2N2O4
